US07355069B2
N-Ethyl-N-(2-fluorobenzyl)-3-(4-hydroxyphenyl)propanamide (0.400 g, 1.327 mmol) and methyl 2-(bromomethyl)benzoate (0.334 g, 1.460 mmol) were dissolved in acetonitrile (10 ml) and potassium carbonate (0.367 g, 2.654 mmol) was added. The mixture was stirred at 65° C. for three hours. When N-ethyl-N-(2-fluorobenzyl)-2-(4-hydroxyphenyl)acetamide was consumed, PS-trisamine (0.3 eqv) was added and the solution was stirred overnight at room temperature. The polymer was filtered off and acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of water, dried (MgSO4) and the solvent was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions on water, dried (MgSO4) and the solvent was removed by evaporation. The crude was purified by preparative HPLC (starting with isocratic acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product-containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). The solvent was removed by evaporation. to give 0.454 g of methyl 2-[(4-{3-[ethyl(2-fluorobenzyl)amino]-3-oxopropyl}phenoxy)methyl]-benzoate (yield 76.1%).

reactant | N-Ethyl-N-(2-fluorobenzyl)-3-(4-hydroxyphenyl)propanamide | 1.327 mmol, 0.400 g | C(C)N(C(CCC1=CC=C(C=C1)O)=O)CC1=C(C=CC=C1)F | C18H20FNO2
reactant | methyl 2-(bromomethyl)benzoate | 1.460 mmol, 0.334 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
reactant | potassium carbonate | 2.654 mmol, 0.367 g | C([O-])([O-])=O.[K+].[K+]
reactant | trisamine | 0.3 eqv | C(C(CO)(CO)N)O | C4H11NO3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl 2-[(4-{3-[ethyl(2-fluorobenzyl)amino]-3-oxopropyl}phenoxy)methyl]-benzoate | 0.454 g, yield 76.1% | C(C)N(C(CCC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1)=O)CC1=C(C=CC=C1)F | C27H28FNO4
